US05334225
To an autoclave, there were fed 1.5 g of palladium carbon, 50.0 g (moisture content: 5.9%; 308 mmol) of 5-methyl-2-nitrophenol and 250 ml of methanol. The mixture was stirred under a hydrogen pressure of 20 kg/cm2 at 50° C. for 3 hours. After cooling, the catalyst was filtered and washed with 50 ml of warm methanol twice and the washing liquor was combined with the filtrate. After distilling off the solvent under reduced pressure, the residue was dried. Thus 37.3 g (303 mmol) of 6-amino-m-cresol was obtained as a brown solid. The yield was 98%. A 15.0 g portion of this brown solid product was recrystallized from 45 ml of isopropanol. Thus 11.9 of 6-amino-m-cresol was obtained as yellow crystals. The recovering yield was 79%.

reactant | 5-methyl-2-nitrophenol | 308 mmol, 50.0 g | CC=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H7NO3
catalyst | palladium carbon | 1.5 g | [C].[Pd]
solvent | methanol | 250 ml | CO | CH4O
product | 6-amino-m-cresol | 303 mmol, 37.3 g, yield was 98% | NC=1C=CC(=CC1O)C | C7H9NO
